US06762197B2
20 ml of toluene was added to 500 mg (5.61 mmol) of 2-methyl semicarbazide (produced in the same manner as in Reference Production Example 6), and to this mixture was added 808 mg (8.41 mmol) of difluoroacetic acid, and the mixture was stirred for 10 hours under reflux with heating. The reaction solution was cooled to room temperature, then, concentrated, and the residue was subjected to silica gel thin layer chromatography (eluant: chloroform/methanol=9/1 (v/v)), to obtain 305 mg of 5-difluoromethyl-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one having a melting point of 141.2° C. in the form of colorless solid.

reactant | 2-methyl semicarbazide | 5.61 mmol, 500 mg | CN(N)C(=O)N | C2H7N3O
reactant | difluoroacetic acid | 8.41 mmol, 808 mg | FC(C(=O)O)F | C2H2F2O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-difluoromethyl-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one | 305 mg | FC(C=1NC(N(N1)C)=O)F | C4H5F2N3O
